US04200641
To a stirred mixture of 45 parts of 5-chloro-2-(phenylmethyl)-1H-benzimidazole-1-propanol and 225 parts of trichloromethane are added dropwise 29.75 parts of sulfinyl chloride. Upon completion, stirring is continued for 6 hours at reflux temperature. The reaction mixture is evaporated and the residue is taken up in water. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 5-chloro-1-(3-chloropropyl)-2-(phenylmethyl)-1H-benzimidazole as a solid residue.

reactant | 5-chloro-2-(phenylmethyl)-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)CC2=CC=CC=C2)CCCO)C=C1 | C17H17ClN2O
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-chloro-1-(3-chloropropyl)-2-(phenylmethyl)-1H-benzimidazole | ClC1=CC2=C(N(C(=N2)CC2=CC=CC=C2)CCCCl)C=C1 | C17H16Cl2N2
